US05064649
(a) 2-Oxotetrahydrofuran-3-yltriphenylphosphonium bromide.
3-Bromo-2-oxotetrahydrofuran (5 g) and triphenylphosphine (7.94 g) in dry benzene (50 mls) were left at room temperature for 4 days. The solution was decanted from the orange gum. This was dissolved in dichloromethane and concentrated to give a pale brown foam.

reactant | 3-Bromo-2-oxotetrahydrofuran | 5 g | BrC1C(OCC1)=O | C4H5BrO2
reactant | triphenylphosphine | 7.94 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | benzene | 50 mls | C1=CC=CC=C1 | C6H6
product | 2-Oxotetrahydrofuran-3-yltriphenylphosphonium bromide | [Br-].O=C1OCCC1[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C22H20O2P.BrH/c23-22-21(16-17-24-22)25(18-10-4-1-5-11-18,19-12-6-2-7-13-19)20-14-8-3-9-15-20;/h1-15,21H,16-17H2;1H/q+1;/p-1
